US05492905
Example 35. 8-Chloro-3-hydroxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.50 g) was suspended in toluene (12 mL) and trans-benzyl(chloro)bis(triphenylphosphine)palladium(II) (50 mg) and tetramethyltin (0.30 mL) were added. The mixture was allowed to reflux for 17 hours, was cooled to room temperature, and 10% (w/w) aqueous potassium fluoride (3 mL) was added, followed by 3N hydrochloric acid (10 mL). The resulting mixture was warmed to 50 ° C. for 6 hours. The reaction mixture was filtered, and the crude product was washed (water, hexane). Crystallization, twice, from dimethylformamide and water gave the title compound as an off-white solid (110 mg); mp 277°-279 ° C.; NMR: 11.72 (s,1), 10.28 (s,1), 7.95 (d,1, J=8.7), 7.48 (t,1, J=2.0), 7.31 (dd,1, J=8.7, 2.0), 2.07 (s,1). Analysis for C11H8ClNO3 ·0.10 H2 0: Calculated: C, 55.18; H, 3.45; N, 5.85; Found: C, 55.23; H, 3.47; N, 5.83.

reactant | 8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.50 g | ClC=1C=CC2=C(NC(C(=C(C2=O)I)OC)=O)C1 | C11H7ClINO3
reactant | tetramethyltin | 0.30 mL | C[Sn](C)(C)C
reactant | potassium fluoride | 3 mL | [F-].[K+]
reactant | hydrochloric acid | 3N, 10 mL | Cl | ClH
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-benzyl(chloro)bis(triphenylphosphine)palladium(II) | 50 mg | [CH2-]C1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd+]
product | 8-Chloro-3-hydroxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 110 mg | ClC=1C=CC2=C(NC(C(=C(C2=O)C)O)=O)C1 | C11H8ClNO3
